US07772334B2
butoxypropanol (23.90 g)
While stirring, the temperature is raised to 125° C. Subsequently, triphenyl phosphine (1.16 g) is added and the exotherm is recorded (189° C.) The mixture is then allowed to cool to 132° C., and a WPE determination (target=620+/−25) is conducted and is 605. After cooling to 82° C. and turning off the heating mantle, 87.63 g of Synfac 8009 (a plasticizer) is added, 1.10 eq. N of a mixture of secondary amines is introduced and the exotherm is recorded (105° C.). The mixture is allowed to stir for an additional 30 minutes after reaching exotherm. After stirring for 30 minutes, 3-dimethylaminopropylamine is added at 107° C. (28.93 g, 0.55 eq.), and the exotherm is recorded (145° C.). The mixture is stirred for an additional hour. The crosslinker (466.83 g) is added. The crosslinker is a blocked isocyanate based on polymeric MDI and monofunctional alcohols, such as diethylene glycol butyl ether. After achieving a homogeneous mixture, the resin and crosslinker blend is added to an acid/water mixture, under constant stirring, of deionized water (1152 g) and formic acid (88%) (28.93 g). After thoroughly mixing all components using a metal spatula, the solids are further reduced by addition of water (1085 g). A flow-additive package (89.3 g) is added to the acid mixture. All raw materials, including the various solvents used above, are industrial grade and no further purifications are made.

reactant | triphenyl phosphine | 1.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-dimethylaminopropylamine | CN(CCCN)C | C5H14N2
reactant | isocyanate | [N-]=C=O
reactant | diethylene glycol butyl ether | C(CCC)OCCOCCO | C8H18O3
solvent | water | 1085 g | O | H2O
solvent | formic acid | 28.93 g | C(=O)O | CH2O2
solvent | water | 1152 g | O | H2O
product | butoxypropanol | C(CCC)OC(CC)O | C7H16O2
